US06790854B2
(c) 4-Cyano-1-(ethoxycarbonyl)-4-(2-methylphenyl)Piperidine
1-Benzyl-4-cyano-4-(2-methylphenyl)piperidine (406 mg) was dissolved in dichloromethane (8 ml), added with ethyl chloroformate (0.16 ml) and potassium hydrogencarbonate (168 mg) and stirred at room temperature for 24 hours. The reaction mixture was added with water (10 ml) and extracted twice with dichloromethane (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=5:1→4:1) to obtain 381 mg of the title compound. Yield: 100%.

reactant | 1-Benzyl-4-cyano-4-(2-methylphenyl)piperidine | 406 mg | C(C1=CC=CC=C1)N1CCC(CC1)(C1=C(C=CC=C1)C)C#N | C20H22N2
reactant | ethyl chloroformate | 0.16 ml | ClC(=O)OCC | C3H5ClO2
reactant | potassium hydrogencarbonate | 168 mg | C(O)([O-])=O.[K+]
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 4-Cyano-1-(ethoxycarbonyl)-4-(2-methylphenyl)Piperidine | 381 mg, Yield: 100% | C(#N)C1(CCN(CC1)C(=O)OCC)C1=C(C=CC=C1)C | C16H20N2O2
